US05594023
A) N',N'-Diethyl-N-phenylurea
A solution of 10 g of aniline in 50 ml of pyridine is cooled to 0° C. and a solution of 14.56 g of diethylcarbamoyl chloride in 10 ml of pyridine is added slowly. The mixture is stirred for 6 hours, the temperature being allowed to rise to RT, and is then poured into water. It is extracted with AcOEt, washed with water and with a 5% solution of potassium hydrogensulfate, dried over sodium sulfate and evaporated under vacuum. The residue is chromatographed on silica using DCM and then a DCM/AcOEt mixture (90/10; v/v) as the eluent to give 13 g of the expected product, which is used as such in the next step.

reactant | aniline | 10 g | NC1=CC=CC=C1 | C6H7N
reactant | diethylcarbamoyl chloride | 14.56 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | water | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N',N'-Diethyl-N-phenylurea | 13 g | C(C)N(C(NC1=CC=CC=C1)=O)CC | C11H16N2O
